Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
diplopia 
 
Major Surgical or Invasive Procedure:
n/a 

 
History of Present Illness:
Mr. ___ is a ___ year old left-handed man with a PMH of HTN,
HLD, DM2, R optic neuropathy who presents as a transfer from ___ with 5 day history of headache and new onset diplopia 
for
1 day. 

On ___ night, patient started to have L eye discomfort
which progressed to L periorbital and retro-orbital headache
accompanied by L lacrimation and rhinorrhea on left side only.
Lacrimation only occurs at night per patient. Wife noted that
patient's L eyelid was slightly swollen.
Headache was dull, ___ in severity but wife notes pt has high
pain tolerance. Patient says pain kept him awake at night.
Unclear if he was ever awakened from sleep due to headache. Pain
was worse when lying down. He went to urgent care of the
headache, where he was instructed to take ibuprofen and an
antibiotic? for suspected sinus infection. These did not help, 
so
he returned to the urgent care and was prescribed sumatriptan,
which helped. He has taken the triptan 3x so far and it can
resolve the headache and allow him to sleep.

Starting yesterday ___, in the evening, he started to notice
horizontal diplopia which resolved by covering one eye. Patient
noted that he unconsciously kept closing his R eye voluntarily
throughout the day likely due to diplopia. He cannot say whether
diplopia is improved or worsened by looking far away, close up,
or in any direction. The diplopia has been constant and stable.
He does not have changes in visual acuity. Patient and wife do
not report any other symptoms that they noticed.

Patient has a history of R optic neuropathy which causes a R 
RAPD
which was diagnosed ___ years ago. He last saw ophthalmology, Dr.
___, ___ years ago. They do not remember the cause of the
optic neuropathy, but wife thinks maybe due to diabetes. 

Patient had a cold 1 month ago. 

ROS: On neurologic review of systems, the patient denies
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
vertigo, tinnitus, hearing difficulty, dysarthria, or dysphagia.
Denies focal muscle weakness, numbness, parasthesia. Denies loss
of sensation. Denies bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.
 
Past Medical History:
HTN, HLD, DM2, R optic neuropathy, Back problems (likely
protruding disc)
 
Social History:
___
Family History:
Father - DM2, stroke, PPM
Mother - thyroid issue, stroke
 
 
Physical Exam:
ADMISSION EXAM
Vitals: T 98, HR 66, BP 120/70, RR 18, SpO2 96% on RA

General: Middle-aged man sitting in stretcher, NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple. Swollen L
eyelid
___: warm, well-perfused
Pulmonary: no increased work of breathing
Abdomen: Soft, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to self, ___, date.
Able to relate history without difficulty. Attentive, able to
name ___ backward without difficulty. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias.  No dysarthria. Normal prosody. 
No apraxia. No evidence of hemineglect. No left-right confusion.
Able to follow both midline and appendicular commands.

- Cranial Nerves: R RAPD, PERRL ___ b/l, brisk. Visual acuity OD
corrected ___ with pinhole; OS ___ corrected. R
partial ptosis. VF full to number counting. L eye has restricted
upgaze, downgaze, and does not bury sclera medially when 
compared
to R. At rest, R eye drifts to the R and down. Patient fixating
with L eye. V1-V3 without deficits to light touch bilaterally. L
NLFF, pt and wife does not recall at baseline, but symmetric on
activation. Hearing intact to finger rub bilaterally.  Palate
elevation symmetric. Trapezius strength ___ bilaterally. Tongue
midline; ___ strength b/l on tongue-in-cheek testing.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  0     0      0       1        0
 R  2+    2+     1+      0        0 

Plantar response flexor bilaterally

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally.

- Gait: Normal initiation. Slightly wide base. Normal stride
length and arm swing. Stable without sway. Negative Romberg.
=====================
DISCHARGE EXAM
Unchanged from above, except would make note of right sided 
inferonasal field deficit (noted on our exam and ophthalmology 
exam) and disconjugate gaze at baseline (difficult to appreciate 
whether it is RIGHT exotropia versus LEFT esotropia at baseline, 
given the ___ nerve palsy OS).  
 
Pertinent Results:
___ 06:55PM URINE  HOURS-RANDOM
___ 06:55PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:55PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 04:42PM   GLUCOSE-238* UREA N-23* CREAT-0.9 SODIUM-142 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-22 ANION GAP-16
___ 04:42PM   estGFR-Using this
___ 04:42PM   ALT(SGPT)-23 AST(SGOT)-20 ALK PHOS-41 TOT 
BILI-0.4
___ 04:42PM   LIPASE-23
___ 04:42PM   ALBUMIN-4.5 CALCIUM-10.0 PHOSPHATE-5.4* 
MAGNESIUM-2.1
___ 04:42PM   %HbA1c-8.7* eAG-203*
___ 04:42PM   CRP-1.2
___ 04:42PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 04:42PM   WBC-10.2* RBC-4.50* HGB-14.0 HCT-41.8 MCV-93 
MCH-31.1 MCHC-33.5 RDW-12.1 RDWSD-41.1
___ 04:42PM   PLT COUNT-253
___ 04:42PM   ___ PTT-27.5 ___

MRI brain and orbit w/ and w/o contrast
IMPRESSION:
1. No acute intracranial abnormality.
2. Normal MRI of the orbits.
3. Left ethmoid and bilateral maxillary sinus disease.
4. 2 cm osseous lesion within the left parietal calvarium, 
likely representing
an intraosseous osteoma.

MRA head w/o contrast 
IMPRESSION:
1. No aneurysm, stenosis or occlusion of the circle of ___ 
arteries.
 
Brief Hospital Course:
Mr. ___ is a ___ year old left-handed man with a PMH of HTN, 
HLD, DM2, R optic neuropathy who presented as a transfer from ___ 
___ with 5 day history of low grade headache and new onset 
diplopia for 1 day. Headache improved by ___ but the diplopia 
was persistent. No history of jaw claudication or scalp 
tenderness. 

His history was notable for horizontal binocular diplopia, 
worsened on near vision, without new visual loss. His exam is 
significant for a right sided afferent pupillary defect, partial 
L CN3 palsy, with pupillary sparing, and inferonasal 
constriction on visual fields in the right eye. There was no 
evidence of swelling of the left temporal artery. 

His workup included MRI brain and orbits with and without 
contrast which revealed no acute intracranial findings, notably 
with no significant pathology in the orbit, no evidence of 
stroke, no evidence of cavernous sinus thrombosis. He also had 
vessel imaging with CTA head/neck which did not reveal any 
evidence of aneurysm or vascular compression. He had a CRP to 
rule out GCA which was negative. 

Patient instructed that we do not recommend driving until at 
least seen by PCP or ___ given the diplopia with 
poor depth perception. 

He was also instructed to minimize use of sumatriptan to no more 
than 1 day per week, maximum 2 doses at a time, to minimize risk 
of cardiovascular complications. Tylenol, NSAIDs, or Excedrin 
migraine may be used in moderation. 

RECOMMENDATIONS:
- Follow up with ___ for consideration of prism 
glasses
- Follow up with PCP/endocrinologist for management of diabetes 
- For headache, minimize use of sumatriptan to no more than 1 
day per week, maximum 2 doses at a time, to minimize risk of 
cardiovascular complications. Tylenol, NSAIDs, or Excedrin 
migraine may be used in moderation. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. MetFORMIN XR (Glucophage XR) ___ mg PO DAILY 
4. Glargine 60 Units Bedtime
Humalog 8 Units Breakfast
Humalog 12 Units Lunch
Humalog 14 Units Dinner
5. Aspirin 81 mg PO DAILY 
6. Sumatriptan Succinate 50 mg PO ONCE MR1 severe headache  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate NOT relieved by 
Tylenol  
3.  Glargine 60 Units Bedtime
Humalog 8 Units Breakfast
Humalog 12 Units Lunch
Humalog 14 Units Dinner 
4.  Aspirin 81 mg PO DAILY  
5.  Atenolol 25 mg PO DAILY  
6.  MetFORMIN XR (Glucophage XR) ___ mg PO DAILY  
7.  Simvastatin 40 mg PO QPM  
8.  Sumatriptan Succinate 50 mg PO ONCE MR1 severe headache   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Microvascular cranial nerve III palsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital after experiencing double 
vision and abnormal sensations around your left eye. You were 
evaluated by Neurology and Ophthalmology, which revealed that 
you had some weakness of one of the muscles that controls the 
left eye, called cranial nerve III (also known as the oculomotor 
nerve). There can be a number of causes for this problem, so we 
admitted you to the hospital to do some tests. This included an 
MRI of your brain and orbit (area around the eye), which did not 
reveal any evidence of stroke, inflammation or other significant 
problem. It revealed some mild changes related to your diabetes, 
high blood pressure and cholesterol. We also looked for swelling 
behind the eye, and there were no signs of this. We checked a 
number of labs, which was notable for an elevated hemoglobin A1c 
to 8.7. This tells us that your sugars are not well controlled, 
and we recommend that you work with your primary care doctor 
and/or endocrinologist to improve control of your sugars.

Overall, we are reassured that the imaging of your brain and eye 
did not reveal any significant abnormalities to explain the 
weakness with cranial nerve III. Therefore, the weakness of this 
nerve is most likely related to your diabetes. Diabetes can 
affect the ability of this nerve to function properly.

Moving forward, it will be important for you to follow up with 
___, who are specialists that deal with this 
problem. If you are not getting better, they may be able to set 
you up with prism glasses, which can improve your double vision. 
 It will also be important for you to follow up with your 
primary care physician to work on your diabetes sugar control.

It was a pleasure taking care of you.

Sincerely,
Your ___ care team  
 
Followup Instructions:
___